US08912221B2
Step C: 5-Bromo-3-fluoro-pyridine-2-carbonitrile
To a mixture of H2SO4 (0.2 ml) and TBAF solution (131 ml, 131 mmol, 1M in THF) was added DMF (40 ml) dropwise at −40° C. Then a solution of 5-bromo-3-nitro-pyridine-2-carbonitrile (10 g, 43 mmol) in DMF (130 ml) was added at −40° C. and the reaction mixture was stirred for 1 h. The reaction was then quenched by addition of 2M HCl solution at −40° C. adjusting the pH to 3. The resulting mixture was extracted twice with EtOAc and the combined organic extracts were washed twice with water, with brine, dried with Na2SO4 and evaporated in vacuo. The remaining residue was purified by chromatography (silica gel; hexane/EtOAc 90:10-80:20) to obtain the title compound as yellow solid (5.2 g, 59%).

reactant | H2SO4 | 0.2 ml | OS(=O)(=O)O | H2O4S
reactant | TBAF | 131 mmol, 1M, 131 ml | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | 5-bromo-3-nitro-pyridine-2-carbonitrile | 43 mmol, 10 g | BrC=1C=C(C(=NC1)C#N)[N+](=O)[O-] | C6H2BrN3O2
solvent | DMF | 130 ml | CN(C)C=O | C3H7NO
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 5-Bromo-3-fluoro-pyridine-2-carbonitrile | 5.2 g, 59% | BrC=1C=C(C(=NC1)C#N)F | C6H2BrFN2
